US08487130B2
Preparation of (2S,5R)—N-[4-(4-Amino-4-oxobutyl)phenyl]-5-methyl-2-(propan-2-yl)cyclohexanecarboxamide
The p-Menthane-3-carboxylic acid chloride as a crude (13.6 mmol, 1 eq) was dissolved in anhydrous CH2Cl2 and add to the mixture of 4-aminophenylbutyramide (1.1 eq, 15.0 mmol, 2.67 g) and triethylamine (1.5 eq, 20.4 mmol, 2.1 g) cooled to 0 C. The reaction was allowed to warm to the RT and checking by GC. After 1 hour GC showed that reaction is completed. CH2Cl2 (50 mL) was added to the reaction and this mixture was washed by 0.1 N HCl aq, water, 0.1 N NaOH aq, by brine and dried over MgSO4. Filtrate and evaporate give white solid which was crystallized from hot ethyl acetate providing 3 g (65%) product as white solid. C21H32N2O2 (MW 344.24); 1H NMR (500 MHz, DMSO-d6) δ: 9.78 ppm (br. s, 1H); 7.49 ppm (d, 2H, J=8.40 Hz); 7.27 ppm (br. s, 1H); 7.09 ppm (d, 2H, J=8.40 Hz); 6.69 ppm (br. s, 1H); 2.50 ppm (t, 2H, J=7.70 Hz); 2.29 ppm (t, 1H, J=11.40 Hz, of d, J=3.17 Hz); 2.04 ppm (t, 2H, J=7.48 Hz); 1.69-1.78 ppm (m, 4H); 1.59-1.67 ppm (m, 2H); 1.51 ppm (t, 1H, J=11.56 Hz); 1.31-1.40 ppm (m, 1H); 1.14 ppm (q, 1H, J=12.14 Hz); 1.02 ppm (q, 1H, J=12.91 Hz); 0.89-0.96 ppm (m, 1H); 0.87 ppm (2d, 6H, J=6.94 Hz); 0.79 ppm (d, ˜83% of 3H, J=6.90 Hz); 0.75 ppm (d, ˜17% of 3H, J=6.90 Hz).

reactant | p-Menthane-3-carboxylic acid chloride | C1(CC(C(CC1)C(C)C)C(=O)Cl)C | C11H19ClO
reactant | 4-aminophenylbutyramide | 15.0 mmol, 2.67 g, 1.1 eq | NC1=CC=C(C=C1)C(C(=O)N)CC | C10H14N2O
reactant | triethylamine | 20.4 mmol, 2.1 g, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (2S,5R)—N-[4-(4-Amino-4-oxobutyl)phenyl]-5-methyl-2-(propan-2-yl)cyclohexanecarboxamide | NC(CCCC1=CC=C(C=C1)NC(=O)C1[C@@H](CC[C@H](C1)C)C(C)C)=O | C21H32N2O2
